US05389687
Preparation of 2-Di-n-propylamino-8-hydroxymethyl-1,2,3,4-tetrahydronaphthalene.
To a solution of 8-formyl-2-dipropylamino-1,2,3,4-tetrahydronaphthalene (1 gm, 3.86 mMol) in ethanol (15 mL) was added sodium borohydride (500 mg, 13.2 mMol), and the solution was stirred for 18 hours at room temperature. The reaction mixture was then diluted with water and made acidic with 10% hydrochloric acid. The aqueous was extracted once with diethyl ether, and the organic phase was discarded. The remaining aqueous phase was made basic with concentrated ammonium hydroxide and extracted with dichloromethane. The combined extracts were dried over sodium sulfate and concentrated in vacuo to give a colorless oil. Purification by flash chromatography (3% methanol in dichloromethane+tr. NH4OH) gave the title compound as a colorless, viscous oil (780 mg 77%). The fumarate salt was formed and crystallized (ethanol/diethyl ether) to give colorless crystals (m.p.=151°-152° C.).

reactant | 8-formyl-2-dipropylamino-1,2,3,4-tetrahydronaphthalene | 3.86 mMol, 1 gm | C(=O)C=1C=CC=C2CCC(CC12)N(CCC)CCC | C17H25NO
reactant | sodium borohydride | 13.2 mMol, 500 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Di-n-propylamino-8-hydroxymethyl-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)CO)CCC | C17H27NO
